US04147805
A solution of 1-chloro-3-[4-(methylthio)phenoxy]propane (5.0 g., 0.023 mole) in 30 ml. of ethanol is treated with n-octylamine (2.84 g., 0.022 mole) and 30 mg. of potassium iodide. After refluxing for a period of 18 hrs., the reaction mixture is concentrated to dryness under reduced pressure, treated with 3N potassium hydroxide solution and ether, and the layers separated. The ether layer is washed with water, concentrated under reduced pressure, and heated on a steam bath at 0.1 mm Hg pressure to remove residual n-octylamine. The residue of N-[3-[4-(methylthio)phenoxy]propyl]octylamine base thus obtained is dissolved in ethanol, treated with excess 6N hydrochloric acid and activated charcoal, filtered and concentrated to dryness under reduced pressure. Crystallization of the residue from isopropyl alcohol-ether affords 1.7 g. (22% yield) of analytically pure N-[3-[4-(methylthio)phenoxy]propyl]octylamine hydrochloride, m.p. 214.5°-215.5° C. (corr.).

reactant | 1-chloro-3-[4-(methylthio)phenoxy]propane | 0.023 mole, 5.0 g | ClCCCOC1=CC=C(C=C1)SC | C10H13ClOS
reactant | n-octylamine | 0.022 mole, 2.84 g | C(CCCCCCC)N | C8H19N
reactant | potassium iodide | [I-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | N-[3-[4-(methylthio)phenoxy]propyl]octylamine | 22% yield | CSC1=CC=C(OCCCNCCCCCCCC)C=C1 | C18H31NOS
